US05006515
Dimethyl 3-(4-methoxycarbonylphenyl)-2-isoxazolin-5-ylphosphonate
Reaction of 80.6 g (0.45 mol) of methyl 4-hydroxyaminobenzoate, 67.0 g (0.5 mol) of N-chlorosuccinimide, 61.25 g (0.45 mol) of dimethyl vinylphosphonate and 78.45 ml (0.56 mol) of triethylamine as in Example 1 provides, after recrystallization from tert.butyl methyl ether, 115.2 g of pure product of melting point 93° C.

reactant | methyl 4-hydroxyaminobenzoate | 0.45 mol, 80.6 g | ONC1=CC=C(C(=O)OC)C=C1 | C8H9NO3
reactant | N-chlorosuccinimide | 0.5 mol, 67.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethyl vinylphosphonate | 0.45 mol, 61.25 g | C(=C)P(OC)(OC)=O | C4H9O3P
reactant | triethylamine | 0.56 mol, 78.45 ml | C(C)N(CC)CC | C6H15N
product | Dimethyl 3-(4-methoxycarbonylphenyl)-2-isoxazolin-5-ylphosphonate | COC(=O)C1=CC=C(C=C1)C1=NOC(C1)P(OC)(OC)=O | C13H16NO6P
